US09079889B2
To a solution of (+/−)-2-azido-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enol (1.0 equiv.) in pyridine and ammonium hydroxide (8:1, 0.08 M) was added trimethylphosphine (3.0 equiv.) and the brown solution was stirred at room temperature for 2 hours. Ethanol was added to the mixture and the solution was concentrated under vacuo (2×). The crude mixture was then dissolved in dioxane and sat. NaHCO3 (1:1, 0.08 M) and Boc2O (1.0 equiv.) was added. The solution was stirred at room temperature for 2 hours, then partitioned between ethyl acetate and water. The organic phase was dried with magnesium sulfate, filtered, and concentrated in vacuo. The crude product was purified via silica gel column chromatography eluting with ethyl acetate and hexanes (1:1) to afford tert-butyl (+/−)-6-hydroxy-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate in 69% yield. LC/MS=350.1 (M+H), Rt=0.76 min.

reactant | (+/−)-2-azido-6-methyl-4-(3-nitropyridin-4-yl)cyclohex-3-enol | 1.0 equiv. | N(=[N+]=[N-])C1C(C(CC(=C1)C1=C(C=NC=C1)[N+](=O)[O-])C)O | C12H13N5O3
reactant | trimethylphosphine | 3.0 equiv. | CP(C)C | C3H9P
reactant | NaHCO3 | 0.08 M | C(=O)(O)[O-].[Na+]
reactant | Boc2O | 1.0 equiv. | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | pyridine | N1=CC=CC=C1 | C5H5N
solvent | ammonium hydroxide | 0.08 M | [OH-].[NH4+]
solvent | Ethanol | C(C)O | C2H6O
product | tert-butyl (+/−)-6-hydroxy-5-methyl-3-(3-nitropyridin-4-yl)cyclohex-2-enylcarbamate | 69% yield | OC1C(CC(=CC1NC(OC(C)(C)C)=O)C1=C(C=NC=C1)[N+](=O)[O-])C | C17H23N3O5
